US06933387B2
c) (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-6,7-difluoro-1H-indole-2-carboxylic acid ethyl ester
The title compound, ISP-MS: m/e=383.3 (M+H+), was prepared in accordance with the general method of example 12b) from 6,7-difluoro-1H-indole-2-carboxylic acid ethyl ester and (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester.

reactant | 6,7-difluoro-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=C(C(=CC=C2C1)F)F | C11H9F2NO2
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
product | (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-6,7-difluoro-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=C(C(=CC=C2C1)F)F)[C@@H](CNC(=O)OC(C)(C)C)C | C19H24F2N2O4
